US03932444
1-(4-IMIDAZOLYLSULFONYL)IMIDAZOLE
A dry round botton flask equipped with a magnetic stirrer, reflux condenser and nitrogen inlet was charged with a filtered solution of 8.33 g of imidazole-4-sulfonylchloride in 300 ml of tetrahydrofuran (THF). The clear solution was treated with 7.0 g of imidazole in one portion and allowed to stir overnight at room temperature. The reaction mixture was filtered and the filtrate concentrated to dryness. All the solids were triturated with water, filtered, rinsed with water and dried at high vacuum over NaOH. Recrystallization from ethanol gave 5.35 g of white crystals of 1-(4-imidazolylsulfonyl)imidazole mp 208°-10°, λmaxnujol 3.21 (HH), 7.29 (SO2N) and 8.52 μ (SO2N). NMR (DMSO, d6) 570-510 Hz, M, 1H; 497 Hz, t, J ~ 1 Hz, 2H; 481 Hz, d J ~ 1 Hz, 1H; 457 Hz, t, J ~ 1 Hz, 1H; 429 Hz, t, J ~ 1 Hz, 1 H.

reactant | imidazole-4-sulfonylchloride | 8.33 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | imidazole | 7.0 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(4-IMIDAZOLYLSULFONYL)IMIDAZOLE | 5.35 g | N1C=NC(=C1)S(=O)(=O)N1C=NC=C1 | C6H6N4O2S
